US05578620
3-Phenyl-2-hydroxypropylamine
A procedure similar to that described in Preparation 13 was repeated, except that 6.0 g of 3-phenyl-2-hydroxypropylazide (prepared as described in Preparation 16), 2.6 g of lithium aluminum hydride and 300 ml of anhydrous tetrahydrofuran were used, to give 5.26 g of the title compound, melting at 64° C. to 66° C.

reactant | 3-phenyl-2-hydroxypropylazide | 6.0 g | C1(=CC=CC=C1)CC(CN=[N+]=[N-])O | C9H11N3O
reactant | lithium aluminum hydride | 2.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-Phenyl-2-hydroxypropylamine | 5.26 g | C1(=CC=CC=C1)CC(CN)O | C9H13NO
